US06995263B2
a] {6-[4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester
A mixture of (6-hydroxy-indol-1-yl)-acetic acid ethyl ester (example 6 b]; 50 mg, 0.23 μmol), 5-chloromethyl-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine (example 3 d]; 78 mg, 0.25 μmol), cesium carbonate (82 mg, 0.25 μmol) and a trace of potassium iodide were suspended in acetone (5 ml). The suspension was stirred at ambient temperature for 72 h, the solvent was evaporated under reduced pressure and the residue dissolved in 1 N HCl/ice water 1/1 and ethyl acetate. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed two times with brine/ice water 1/1 and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue purified by column chromatography (silica gel, heptane/AcOEt) to give 71 mg (0.14 μmol, 63%) of the title compound as colorless crystals.

reactant | (6-hydroxy-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)O)=O | C12H13NO3
reactant | 5-chloromethyl-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine | ClCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C15H12ClF3N2
reactant | cesium carbonate | 0.25 μmol, 82 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | {6-[4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester | 0.14 μmol, 71 mg, 63% | C(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)=O | C27H24F3N3O3
